* source PLETHYSMOGRAPH
X_U1A         N00107 N00111 9V+ 9V- N00111 TL072/301/TI
R_R1         0 N00107  10meg TC=0,0 
C_C1         N00107 N00210  56n  TC=0,0 
V_V1         N00210 0  AC 1
+SIN 0 1 0.5 0 0 0
V_V2         9V+ 0 9Vdc
V_V3         0 9V- 9Vdc
X_U1B         N01221 N00970 9V+ 9V- N00970 TL072/301/TI
X_U2A         N00958 N01029 9V+ 9V- N01029 TL072/301/TI
R_R2         N00992 N01221  1.8meg TC=0,0 
R_R3         N00111 N00992  1.8meg TC=0,0 
R_R4         N00970 N01002  1.8meg TC=0,0 
R_R5         N01002 N00958  1.8meg TC=0,0 
C_C2         0 N01221  1.8n  TC=0,0 
C_C3         N00970 N00992  1.8n  TC=0,0 
C_C4         N00958 0  1.8n  TC=0,0 
C_C5         N01002 N01029  1.8n  TC=0,0 
X_U2B         N02606 N02567 9V+ 9V- N02623 TL072/301/TI
R_R6         N01029 N02606  10k TC=0,0 
R_R7         N02606 N02623  220k TC=0,0 
R_R8         N01029 N02567  10k TC=0,0 
C_C6         0 N02567  10u  TC=0,0 
